US08314107B2
A mixture of ethyl 7-methoxyimidazo[1,2-a]pyridine-2-carboxylate (0.22 g, 1.0 mmol) and 48% hydrobromic acid (20 mL) was heated at reflux for 3 days. After the completion of reaction, the reaction mixture was concentrated and the residue obtained was washed with diethyl ether and dried under reduced pressure to afford 7-hydroxyimidazo[1,2-a]pyridine-2-carboxylic acid hydrobromide salt as a brown solid (0.24 g, 93%). 1H-NMR (CD3OD, 300 MHz): δ 8.57 (m, 1H), 8.44 (s, 1H), 7.07 (m, 1H), 6.95 (m, 1H) ppm; MS (ESI): 178.1 (M+1).

reactant | ethyl 7-methoxyimidazo[1,2-a]pyridine-2-carboxylate | 1.0 mmol, 0.22 g | COC1=CC=2N(C=C1)C=C(N2)C(=O)OCC | C11H12N2O3
reactant | hydrobromic acid | 20 mL | Br | BrH
product | 7-hydroxyimidazo[1,2-a]pyridine-2-carboxylic acid hydrobromide salt | 0.24 g, 93% | Br.OC1=CC=2N(C=C1)C=C(N2)C(=O)O | InChI=1S/C8H6N2O3.BrH/c11-5-1-2-10-4-6(8(12)13)9-7(10)3-5;/h1-4,11H,(H,12,13);1H
